US07294644B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(2-cyclopropyl-ethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 1-(2-chloro-5-trifluoromethyl-phenyl)-2-bromo-ethanone as compound of formula S, 2-cyclopropyl-ethylamine as R3—(CH2)m—NH2 and ((1R,2R)-2-hydroxy-cyclohexyl)-amine as R1R2NH, MS (ISP) 469.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 1-(2-chloro-5-trifluoromethyl-phenyl)-2-bromo-ethanone | ClC1=C(C=C(C=C1)C(F)(F)F)C(CBr)=O | C9H5BrClF3O
reactant | 2-cyclopropyl-ethylamine | C1(CC1)CCN | C5H11N
reactant | ((1R,2R)-2-hydroxy-cyclohexyl)-amine | O[C@H]1[C@@H](CCCC1)N | C6H13NO
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(2-cyclopropyl-ethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)CCC1CC1)C | C24H28ClF3N2O2
